US08242153B2
In analogy to example 1d (S)-2-amino-4-(4-fluoro-phenylsulfonyl)-butan-1-ol was reacted with cyanogen bromide to give (S)-4-[2-(4-fluoro-phenylsulfonyl)-ethyl]-4,5-dihydro-oxazol-2-ylamine. Colourless oil. MS (ISP): 273.1 ([M+H]+).

reactant | (S)-2-amino-4-(4-fluoro-phenylsulfonyl)-butan-1-ol | N[C@H](CO)CCS(=O)(=O)C1=CC=C(C=C1)F | C10H14FNO3S
reactant | cyanogen bromide | N#CBr | CBrN
product | (S)-4-[2-(4-fluoro-phenylsulfonyl)-ethyl]-4,5-dihydro-oxazol-2-ylamine | FC1=CC=C(C=C1)S(=O)(=O)CC[C@@H]1N=C(OC1)N | C11H13FN2O3S
